US08975254B2
1-Methyl-1H-indazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 12 starting from N-methyl-indazole-3-carboxylic acid and 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride. The crude product was purified by flash chromatography using heptane/EtOAc as a gradient eluent (9:1-8:2). 1H NMR (400 MHz, DMSO-d6): 3.00 (2H, t), 3.64 (2H, m), 4.12 (3H, s), 6.36 (1H, d), 7.01 (1H, d), 7.26 (1H, m), 7.46 (1H, m), 7.600 (1H, s), 7.602 (1H, s), 7.72 (1H, d), 7.83 (1H, s), 8.16 (1H, d), 8.48 (1H, t).

reactant | N-methyl-indazole-3-carboxylic acid | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
reactant | 2-[5-(3,4-dichlorophenyl)furan-2-yl]ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | 1-Methyl-1H-indazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=NN(C2=CC=CC=C12)C | C21H17Cl2N3O2
